US04766131
A stirred solution of 200 ml of 0.5 M borane/THF was treated with N-(4-nitrophenylacetyl)-1,2,3,4-tetrahydro-6-methoxy-1-methylisoquinoline (11.5 g, 0.03 m) portionwise, at room temperature, then warmed to reflux. After 30 min at reflux, the reaction was cooled and acidified with 60 ml of 20% HCl, added dropwise. The acidified reaction mixture was refluxed one hour, then concentrated on the rotovap at 40° C. to about 1/3 volume, then diluted with 600 ml water. The mixture was basified, then extracted with CH2Cl2 (2×400 ml). The CH2Cl2 was concentrated to an oil which crystallized when treated with 200 ml ether. The product was filtered off and air dried, giving 8.5 g N-(4-nitrophenethyl)-1,2,3,4-tetrahydro-6-methoxy-1-methylisoquinoline, m.p. 176°-178° (86%).

reactant | borane THF | 0.5 M, 200 ml | B.C1CCOC1
reactant | N-(4-nitrophenylacetyl)-1,2,3,4-tetrahydro-6-methoxy-1-methylisoquinoline | 11.5 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)N1C(C2=CC=C(C=C2CC1)OC)C | C19H20N2O4
solvent | HCl | 60 ml | Cl | ClH
product | N-(4-nitrophenethyl)-1,2,3,4-tetrahydro-6-methoxy-1-methylisoquinoline | 8.5 g | [N+](=O)([O-])C1=CC=C(CCN2C(C3=CC=C(C=C3CC2)OC)C)C=C1 | C19H22N2O3
